US07935688B2
(5) Synthesis of (E)-3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol
A solution of trifluoromethanesulfonic acid 4-{1-ethyl-1-[(E)-4-(3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-phenyl ester (Example 39-(4); 0.65 g, 1.30 mmol), diphenylphosphinoferrocene (43.3 mg, 0.078 mmol), a [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II), dichloromethane complex (1:1) (63.8 mg, 0.078 mmol), potassium acetate (0.38 g, 3.91 mmol) and bis(pinacolato)diboron (0.43 g, 1.69 mmol) in dioxane (8.7 mL) was stirred at 80° C. for four hours. Water was added to the reaction mixture, followed by extraction with diethyl ether. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (17% ethyl acetate/hexane) to give the title compound (0.40 g, 65%).

reactant | trifluoromethanesulfonic acid 4-{1-ethyl-1-[(E)-4-(3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-phenyl ester | 1.30 mmol, 0.65 g | C(C)C(CC)(C1=CC(=C(C=C1)\C=C\C(CC)(O)CC)C)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C26H33F3O4S
reactant | potassium acetate | 3.91 mmol, 0.38 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.69 mmol, 0.43 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | Water | O | H2O
solvent | dioxane | 8.7 mL | O1CCOCC1 | C4H8O2
catalyst | diphenylphosphinoferrocene | 0.078 mmol, 43.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (E)-3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol | 0.40 g, 65% | C(C)C(/C=C/C1=C(C=C(C=C1)C(CC)(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC)C)(CC)O | C31H45BO3
